US05500427
a) Methyl 2-butyrylamino-5-methylthiophene-3-carboxylate
To a solution of methyl 2-amino-5-methylthiophene-3-carboxylate (2.6 g) [(Y. Kuwada et al. Chem. Abst. 82, 156252 (1975)] in pyridine (20 ml) was added dropwise under ice-cooling butyric anhydride (2.8 g). The reaction mixture was stirred for 18 hours at 60° C. The reaction mixture was concentrated and dissolved in ethyl acetate. The solution was washed with water, which was dried over anhydrous magnesium sulfate. The solvent was distilled off, and the residue was purified by column chromatography on silica gel to afford the title compound as a brownish oil (2.2 g, 62%).

reactant | methyl 2-amino-5-methylthiophene-3-carboxylate | 2.6 g | NC=1SC(=CC1C(=O)OC)C | C7H9NO2S
reactant | butyric anhydride | 2.8 g | C(CCC)(=O)OC(CCC)=O | C8H14O3
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | Methyl 2-butyrylamino-5-methylthiophene-3-carboxylate | 2.2 g, 62% | C(CCC)(=O)NC=1SC(=CC1C(=O)OC)C | C11H15NO3S
